US07557131B2
Preparation 84: (3R)-3-(2-Chlorophenoxy)pyrrolidine hydrochloride
Diisopropyl azodicarboxylate (21 mL, 107 mmol) and 4-hydroxy-3-chlorophenol (11.1 mL, 107 mmol) were added portionwise to an ice-cold solution of tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate (20 g, 107 mmol) and triphenylphosphine (28.1 g, 107 mmol) in tetrahydrofuran (320 mL) and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated in vacuo and the residue was treated with hydrochloric acid (4M in dioxane, 250 mL). The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate (400 mL) and water (400 mL). The organic layer was separated and washed with water (100 mL), and the combined aqueous solution was washed with ethyl acetate (2×300 mL), basified to pH9 with solid potassium carbonate and extracted with ethyl acetate (2×400 mL). The combined organic solution was then washed with water (3×300 mL), dried over magnesium sulfate and concentrated in vacuo. The residual oil was dissolved in diethyl ether (60 mL), treated dropwise with hydrochloric acid (4M in dioxane, 25 mL) and the resulting precipitate was filtered off, washing through with diethyl ether, and dried to afford the title compound as a white solid in 55% yield, 13.69 g. LRMS APCI m/z 198 [M+H]+

reactant | Diisopropyl azodicarboxylate | 107 mmol, 21 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-hydroxy-3-chlorophenol | 107 mmol, 11.1 mL | OC1=C(C=C(C=C1)O)Cl | C6H5ClO2
reactant | tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate | 107 mmol, 20 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triphenylphosphine | 107 mmol, 28.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 320 mL | O1CCCC1 | C4H8O
product | (3R)-3-(2-Chlorophenoxy)pyrrolidine hydrochloride | 55% yield | Cl.ClC1=C(O[C@H]2CNCC2)C=CC=C1 | InChI=1S/C10H12ClNO.ClH/c11-9-3-1-2-4-10(9)13-8-5-6-12-7-8;/h1-4,8,12H,5-7H2;1H/t8-;/m1./s1
